US07173031B2
B) 4-Chloro-6-(pyridin-3-yl)pyrrolo[2,1-f][1,2,4]triazine
To a suspension of 6-(pyridin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-ol (100 mg, 0.30 mmol) in 10 mL of toluene were added POCl3 (0.18 mL, 1.88 mmol) and DIEA (0.09 mL, 0.5 mmol). The suspension was heated at 100° C. for 7 h. After cooling down, the excess POCl3 was removed under reduced pressure. The residue was suspended in EtOAc, and then neutralized with sat. NaHCO3. The organic layer was then washed with brine and dried over MgSO4. After filtration and concentration, the residue was purified by flash column chromatography to afford the title compound (23 mg, 33%). MS(ESI+) m/z 231.2/233.2 (M+H)+.

reactant | 6-(pyridin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-ol | 0.30 mmol, 100 mg | N1=CC(=CC=C1)C=1C=C2C(=NC=NN2C1)O | C11H8N4O
reactant | POCl3 | 1.88 mmol, 0.18 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DIEA | 0.5 mmol, 0.09 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-6-(pyridin-3-yl)pyrrolo[2,1-f][1,2,4]triazine | 23 mg, 33% | ClC1=NC=NN2C1=CC(=C2)C=2C=NC=CC2 | C11H7ClN4
